### PR TITLE
[Merged by Bors] - feat: polynomial evaluation via SMul

### PR DESCRIPTION
**Pull request by ScottCarnahan**
We introduce polynomial evaluation using SMul, so polynomials can be evaluated at elements of non-associative semirings.  This is most useful in the power-associative context, but power-associativity is not implemented yet.

We obtain a generalization of `Polynomial.eval₂`, and in particular of the specializations `Polynomial.aeval` and `Polynomial.leval`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by negiizhao** [comment]
Maybe it should be mentioned somewhere that this is a generalization of `Polynomial.leval` and `Polynomial.aeval`.

**Comment by ericrbg** [comment]
Could you add the correct compatibility lemmas for `leval` and `aeval`?

File: Mathlib/Data/Polynomial/Smeval.lean [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+
+theorem leval_eq_smeval {R : Type*} [Semiring R] (r : R) : leval r =
+    {
+      toFun := fun p => p.smeval r
+      map_add' := fun p q => smeval_add R p q r
+      map_smul' := by
+        intro r p
+        simp only [smeval_smul, smul_eq_mul, RingHom.id_apply]
+    } := by
+  aesop
```
Comment (jcommelin) [inline Mathlib/Data/Polynomial/Smeval.lean:189]: I think that for rewriting purposes, the lemma is more useful if you state it on the level of (coerced) functions. Because then you can also rewrite backwards, to turn a `smeval` into a `leval` when that is possible/useful.

File: Mathlib/Data/Polynomial/Smeval.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+
+theorem aeval_eq_smeval {R : Type*} [CommSemiring R] {S : Type*} [Semiring S] [Algebra R S]
```
Comment (jcommelin) [inline Mathlib/Data/Polynomial/Smeval.lean:191]: Idem dito

**Review by jcommelin — COMMENTED** [review]
This looks good! Thanks for this generalization.

Two minor comments.

File: Mathlib/Data/Polynomial/Smeval.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/Data/Polynomial/Smeval.lean:196]: Thank you.  This would not have occurred to me.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
